US06632810B2
Synthesis of methyl N-methyl-4,5,6-trimethoxyindole-2-carboxylate:
Methyl 3-(2,3,4-trimethoxyphenyl)-2-azidopropenoate (799 mg), potassium tert-butoxide (438 mg) and 18-crown-6 (71 mg) were dissolved in dry benzene (60 mL), and the solution was stirred for 15 minutes. Iodomethane (0.28 mL) was then added, and the mixture was stirred overnight. Water was added to the reaction mixture to conduct extraction with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | Methyl 3-(2,3,4-trimethoxyphenyl)-2-azidopropenoate | 799 mg | COC1=C(C=CC(=C1OC)OC)C=C(C(=O)OC)N=[N+]=[N-] | C13H15N3O5
reactant | potassium tert-butoxide | 438 mg | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 71 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Iodomethane | 0.28 mL | IC | CH3I
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
product | methyl N-methyl-4,5,6-trimethoxyindole-2-carboxylate | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)OC | C14H17NO5
